US05532258
4N-Hydrogen chloride/dioxane (10 ml) was added to a suspension of 4-(3-acetylaminomethylphenyl)-2-[[(amino)(2-methoxyethylamino)methylene]amino]thiazole (2.0 g) in methanol (20 ml). The mixture was stirred for 3 hours at room temperature. The resulting precipitate was collected by filtration. Recrystallization from water afforded 4-(3-acetylaminomethylphenyl)-2-[[(amino)(2-methoxyethylamino)methylene]amino]thiazole hydrochloride (0.9 g).

reactant | Hydrogen chloride dioxane | 10 ml | Cl.O1CCOCC1
reactant | 4-(3-acetylaminomethylphenyl)-2-[[(amino)(2-methoxyethylamino)methylene]amino]thiazole | 2.0 g | C(C)(=O)NCC=1C=C(C=CC1)C=1N=C(SC1)N=C(NCCOC)N | C16H21N5O2S
solvent | methanol | 20 ml | CO | CH4O
product | 4-(3-acetylaminomethylphenyl)-2-[[(amino)(2-methoxyethylamino)methylene]amino]thiazole hydrochloride | 0.9 g | Cl.C(C)(=O)NCC=1C=C(C=CC1)C=1N=C(SC1)N=C(NCCOC)N | InChI=1S/C16H21N5O2S.ClH/c1-11(22)19-9-12-4-3-5-13(8-12)14-10-24-16(20-14)21-15(17)18-6-7-23-2;/h3-5,8,10H,6-7,9H2,1-2H3,(H,19,22)(H3,17,18,20,21);1H
